US07786165B2
ethyl 3-(4-{({6-(acetylamino)-4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate
To a solution of N-{5-(hydroxymethyl)-4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-2-yl}acetamide (148 mg, 0.36 mmol), ethyl 3-(2-fluoro-4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate (157 mg, 0.40 mmol) and triphenylphosphine (189 mg, 0.72 mmol) in tetrahydrofuran (4 mL) was added diethyl azodicarboxylate (40% toluene solution, 0.33 mL, 0.72 mmol) under stirring at room temperature, and the mixture was stirred for one day. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-hexane/ethyl acetate=1/3) to give the title compound (262 mg, yield 83%) as a colorless amorphous powder.

reactant | N-{5-(hydroxymethyl)-4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-2-yl}acetamide | 0.36 mmol, 148 mg | OCC=1C=CC(=C(C1)C1=C(C=C(C=C1C)OCC1(CCSCC1)O)C)NC(C)=O | C23H29NO4S
reactant | ethyl 3-(2-fluoro-4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 0.40 mmol, 157 mg | FC1=C(C=CC(=C1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCC(=O)OCC | C17H17FN2O6S
reactant | triphenylphosphine | 0.72 mmol, 189 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.72 mmol, 0.33 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | ethyl 3-(4-{({6-(acetylamino)-4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate | 262 mg, yield 83% | C(C)(=O)NC1=CC=C(C=C1C1=C(C=C(C=C1C)OCC1(CCSCC1)O)C)CN(C1=CC(=C(C=C1)CCC(=O)OCC)F)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C40H44FN3O9S2
